US07153968B2
Step 1: 5-Bromo-pyridine-3-carbaldehyde
To a solution of 3,5-dibromopyridine (1.0 eq.) in Et2O (0.1M) at −78° C. was added n-BuLi (1.05 eq.). The mixture was stirred for 30 min at −78° C. then DMF (3.0 eq.) was added. The final mixture was warmed to rt, stirred for 3 h, quenched using saturated aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 4:1) afforded the title compound as an oil.

reactant | 3,5-dibromopyridine | 1.0 eq. | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | n-BuLi | 1.05 eq. | [Li]CCCC
reactant | DMF | 3.0 eq. | CN(C)C=O | C3H7NO
solvent | Et2O | 0.1M | CCOCC | C4H10O
product | 5-Bromo-pyridine-3-carbaldehyde | BrC=1C=C(C=NC1)C=O | C6H4BrNO
